US05672697
N2 -Isobutyryl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyguanosine (2)
The tritylation procedure of Jones45 was modified such that no DMAP was used. To 3.37 g (10.0 mmol) of N2 -isobutyryl-2'-deoxyguanosine (that was first concentrated from dry pyridine) in 50 mL of dry pyridine, was added 4.06 g (12.0 mmol, 1.20 equiv.) of 4,4'-dimethoxytrityl chloride. The reaction was stirred for 15 h, and then concentrated. The residue was partitioned between CH2Cl2 and 0.5% aq. NaHCO3, shaken, and separated. The organic layer was washed with 0.5% aq. NaHCO3 and dried. The crude product was purified by flash chromatography.

reactant | N2 isobutyryl-2'-deoxyguanosine | 10.0 mmol, 3.37 g | N#N.C(C(C)C)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12
reactant | 4,4'-dimethoxytrityl chloride | 12.0 mmol, 4.06 g, 1.20 equiv. | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N2 Isobutyryl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyguanosine | N#N.C(C(C)C)(=O)[C@@]1(C[C@H](O)[C@@H](COC(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)O1)N1C=NC=2C(=O)NC(N)=NC12 | InChI=1S/C35H37N5O7.N2/c1-21(2)30(42)34(40-20-37-29-31(40)38-33(36)39-32(29)43)18-27(41)28(47-34)19-46-35(22-8-6-5-7-9-22,23-10-14-25(44-3)15-11-23)24-12-16-26(45-4)17-13-24;1-2/h5-17,20-21,27-28,41H,18-19H2,1-4H3,(H3,36,38,39,43);/t27-,28+,34-;/m0./s1
